US05112817
5-[N-Acetyl-(3-(4-diphenylmethylpiperazine-1-yl)-2-hydroxypropylamino)]quinoline
In a mixed solvent of 10 ml of methanol and 5 ml of water were dissolved 0.55 g of 5-[N-acetyl-(2-acetoxy-3-(4-diphenylmethylpiperazine-1-yl)propylamino)]quinoline and 0.5 g of potassium carbonate, and the liquid was allowed to stand at room temperature overnight. The liquid was extracted with methylene chloride, and the extract was then dried with anhydrous magnesium sulfate and was concentrated to obtain 0.5 g of the desired compound.

reactant | 5-[N-acetyl-(2-acetoxy-3-(4-diphenylmethylpiperazine-1-yl)propylamino)]quinoline | 0.55 g | C(C)(=O)N(C1=C2C=CC=NC2=CC=C1)CC(CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)OC(C)=O | C33H36N4O3
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 5-[N-Acetyl-(3-(4-diphenylmethylpiperazine-1-yl)-2-hydroxypropylamino)]quinoline | 0.5 g | C(C)(=O)N(C1=C2C=CC=NC2=CC=C1)CC(CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)O | C31H34N4O2
